US08049015B2
Ethylamine (1.3 mL, 20.0 mmol) and diisopropylethylamine (7 mL, 40.0 mmol) were combined in CH2Cl2 (200 mL) and cooled to 0° C. Benzyl chloroformate (2.86 mL, 20.0 mmol) was added dropwise, and the reaction was stirred at 0° C. for 30 minutes. The mixture was warmed to room temperature and washed with H2O, 0.1N aqueous HCl, and H2O, and then dried and concentrated to give ethyl-carbamic acid benzyl ester.

reactant | Ethylamine | 20.0 mmol, 1.3 mL | C(C)N | C2H7N
reactant | diisopropylethylamine | 40.0 mmol, 7 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | Benzyl chloroformate | 20.0 mmol, 2.86 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | ethyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCC)=O | C10H13NO2
